Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Lisinopril
 
Attending: ___.
 
Chief Complaint:
Chest tightness with left arm numbness
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
The patient is a ___ man with a history of hypertension, 
hyperlipidemia, remote smoking history who presents to the 
emergency room with the cheif complaint of chest tightness. His 
chest tightness began on the morning of ___ while he was 
sitting in a chair. The tightness is described as a 
"discomfort," approximately ___ out of 10 in severity and is 
non-radiating. This sensation was accompanied by a "tingling" of 
his left hand. In addition, he felt a heaviness in his legs 
bilaterally, and a flushing on his face. No associated nausea, 
diaphoresiss, or palpitations. He took an aspirin and his beta 
blocker at this time and then went out for a walk. He felt that 
these symptoms were somewhat improved after walking. 
Nevertheless, they persisted in varying severity throughout the 
day until the morning of admission.  
.  
Review of systems positive for PND and heavy snoring. Negative 
for orthpnea, ___ edema, palpitations, lightheadedness, syncope, 
fever, chills, n/v/d. At base line he is able to walk ___ miles 
and ___ flights of stairs, limited by SOB.  
.  
ED course: In the ED, VS: 97.5, 88, 147/90, 16, 99% on RA.  
EKG unchanged from baseline, first 2 sets negative. He was given 
metoprolol 5 mg X1, and NTG 0.4mg SL x1. NTG reportedly improved 
his chest tightness. CXR had question of widened mediastinum 
(per ED read) so obtained a CTA chest to eval for dissection. 
(Incidentally, he was also enrolled in a study of NAc to prevent 
contrast nephropathy.) Neurology was called in the ED to 
evaluate his arm numbness, however they recommended a 
consultation by the medicine team when he was admitted to the 
floor.  
.  
Currently without chest discomfort. Mild tingling of his hand, 
predominantly in the ___ and ___ fingers.  
.  

 
Past Medical History:
atypical chest pain -- negative stress test ___
HTN
hypercholesterolemia
BPH
hypoglycemia  
 
Social History:
___
Family History:
Brother with prostate cancer s/p prostatotomy. Sister with 
breast cancer. Father died in his ___, possibly of heart 
disease. no other known FH of CAD.  
.  

 
Physical Exam:
PE: 96.1, 136/80, 66, 96% on RA  
Gen: Well appearing, obese, pleasant man in NAD.  
HEENT: NCAT, PERRL, EOMI, MMM, OP clear.  
NECK: Supple, no LAD, no JVD.  
CV: RRR. +Distant heart sounds, normal S1, S2. No murmurs, rubs 
or gallops.  
LUNGS: CTAB, no wheezes or crackles.  
ABD: +BS. Soft, NT/ND.  
EXT: No edema. Pedal pulses present bilateral.  
NEURO: A&Ox3. Appropriate. Language fluent. CN ___ grossly 
intact. Normal tone and bulk. ___ strength b/l upper and lower 
extrem. Sensation to light touch in tact in extremeties 
bilaterally. Inconsistent findings on two point discrimination 
test; however, no obvious deficit. Reflexes, gait, and 
coordination not assessed.  
.  

 
Pertinent Results:
EKG: NSR at 73bpm. LAD. Nl intervals. Possible T wave flattening 
in aVF and V1. And T wave inversion in lead III; however, not 
present in contiguous leads. No ST changes. No significant 
change from prior.  
.  
CXR: No acute cardiopulmonary process.  
.  
Head CT: No acute intracranial abnormality.  
.  
CTA Chest: No evidence PE or dissection. Small hiatal hernia was 
seen. Evidence of left breast cyst 19mm.  
.  
Stress test: Patient completed 9 minutes of the ___ 
with a MET of 10, which represents average physical working 
capacity. The patient complained of no discomfort in his neck, 
back, chest, or abdomen during the study or in recovery. There 
were no associated EKG changes during the study or in recovery.  


 
Brief Hospital Course:
1. Chest pain:  He has no known CAD with a negative cath in 
___.  His cardiac risk factors includes age, hyperlipidemia, 
HTN, obesity and a remote smoking history.  He had a CTA in the 
ED without evidence of PE or aortic dissection (which was 
initially a concern in the ED due to ?widened mediastinum based 
on ED cx-ray read).  He had a stress MIBI on this admission 
which revealed a mild fixed perfusion defect of the basal 
portion of the inferior wall (also noted in his prior stres 
MIBI).  His cardiac markers were negative x 3 and was monitored 
on telemetry overnight without events.  He was continued on his 
statin, ASA, and BB for primary prevention.   
.
2. Arm tingling: Distribution most consistent with ulnar 
neuropathy.  No other motor or sensory deficits were elicited.  
He had a CT head in the ED which was unremarkable. Nocturnal 
splinting was recommended, but his tingling improved overnight 
without intervention.  
.
3. HTN: BP well-controlled on home regimen of BB. 
. 
4. Hyperlipidemia: In ___ LDL 126, which meets his LDL goal of 
<130.  He was continued on his outpatient regimen statin.  
.
 
Medications on Admission:
Lipitor 40mg daily  
Aspirin 325mg daily  
Atenolol 50mg daily  
Avodart 0.5mg daily  

 
Discharge Medications:
1. Aspirin 325 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
2. Atenolol 50 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
3. Atorvastatin 40 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
4. Avodart 0.5 mg Capsule Sig: One (1) Capsule PO daily ().  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary
Chest pain
Secondary
Ulnar neuropathy
Hypertension
Hyperlipidemia

 
Discharge Condition:
stable

 
Discharge Instructions:
You were admitted with chest pressure.  You had no changes on 
your EKG.  You also had a exercise stress test which was normal. 
 Your chest pressure does not appear to be cardiac in origin.  
Your arm tingling is likely not related to your chest pain.   

No medication changes were made to your current medication 
regimen.  

If you have any of the following symptoms, you should return to 
the emergency room or see your primary care provider:
___ pain, difficulty breathing, palpitations, shortness of 
breath, weakness, changes in your vision, worsening numbness or 
any other serious concerns.  
 
Followup Instructions:
___